US07326791B2
rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)]ethyl-3-bromo-4-(pyrrolidin 1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and rac.-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 73%; Rf value: 0.50 (silica gel; methylene chloride/ethanol=9:1); C21H20BrClN4O2 (475.78); mass spectrum: (M−H)−=473/475/477 (bromine/chlorine isotope).

reactant | 3-bromo-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | BrC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C12H12BrNO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | rac.-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)C(C)N)C=C1 | C9H10ClN3
reactant | bromine chlorine | BrBr.ClCl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)]ethyl-3-bromo-4-(pyrrolidin 1-ylcarbonyl)benzamide | Yield: 73% | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)Br)=O)C=C1 | C21H20BrClN4O2
